US09238644B2
(a) 4-Chloro-N-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)pyrimidin-2-amine (A64)
A 1.0 M solution of ZnCl2 in Et2O (5.07 mL, 5.07 mmol) was added to a solution of 2,4-dichloro-5-(trifluoromethyl)pyrimidine (1.00 g, 4.61 mmol) in t-BuOH (25 mL) and DCE (25 mL) and the mixture was stirred for 10 minutes. The mixture was diluted with t-BuOH (25 mL) and DCE (25 mL) before 1-methyl-1H-pyrazol-4-amine (492 mg, 5.07 mmol) and Et3N (1.93 mL, 13.83 mmol) were added and stirring was continued at room temperature overnight. The volatiles were removed in vacuo and the resultant residue suspended in water (250 mL) and sonicated for 10 minutes. The solid was collected by vacuum filtration and the filter cake washed with water and then air dried. The solid was dissolved in DCM, adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, 40 g SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound A64 as a white solid (182 mg, 14%). LCMS-A: rt 6.113 min; m/z 278.1 [M+H]+.

reactant | Et2O | 5.07 mmol, 5.07 mL | CCOCC | C4H10O
reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 4.61 mmol, 1.00 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | 1-methyl-1H-pyrazol-4-amine | 5.07 mmol, 492 mg | CN1N=CC(=C1)N | C4H7N3
reactant | Et3N | 13.83 mmol, 1.93 mL | CCN(CC)CC | C6H15N
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
solvent | t-BuOH | 25 mL | CC(C)(C)O | C4H10O
solvent | DCE | 25 mL | ClCCCl | C2H4Cl2
catalyst | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | 4-Chloro-N-(1-methyl-1H-pyrazol-4-yl)-5-(trifluoromethyl)pyrimidin-2-amine | ClC1=NC(=NC=C1C(F)(F)F)NC=1C=NN(C1)C | C9H7ClF3N5
